US07592477B2
Step a) Formation of N-(4-dec-1-ynylbenzyl)-N-[2-(2-fluorophenyl)ethyl]amine
To a solution of 4-dec-1-ynylbenzaldehyde (24.2 mg, 0.1 mmol) in anhydrous THF (0.6 mL) was added the 2-(2-fluorophenyl)ethylamine (13.9 mg, 0.1 mmol) and anhydrous MgSO4 (50 mg). The mixture was stirred overnight at RT. The reaction mixture was filtered and evaporated to give an oily residue. This crude product was taken up in MeOH (0.5 mL) then the sodium triacetoxyborohydride (53 mg, 0.25 mmol) was added and the reaction mixture was stirred overnight at rt. The solvents were evaporated under vacuum to give a solid. This solid was suspended in DCM (0.75 mL) and eluted through a SCX column (Isolute, 1 g) with DCM (6 mL), then NH3 (2M in MeOH, 4 mL). The desired fractions (TLC monitoring) were concentrated under vacuum to afford the title product as a yellow oil. M+(LC/MS(ESI)): 366.3. HPLC (Condition A), Rt: 4.64 min (HPLC purity: 80.5%).

reactant | 4-dec-1-ynylbenzaldehyde | 0.1 mmol, 24.2 mg | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | 2-(2-fluorophenyl)ethylamine | 0.1 mmol, 13.9 mg | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | MgSO4 | 50 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | sodium triacetoxyborohydride | 0.25 mmol, 53 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | DCM | 0.75 mL | C(Cl)Cl | CH2Cl2
product | N-(4-dec-1-ynylbenzyl)-N-[2-(2-fluorophenyl)ethyl]amine | C(#CCCCCCCCC)C1=CC=C(CNCCC2=C(C=CC=C2)F)C=C1 | C25H32FN
